US07414066B2
Production of 9-(7-methoxycarbonylbenzoxazol-2-ylthio)-N-[2,4-bis(methylthio)-6-methyl-3-pyridyl]nonanamide
To a DMF (4 ml) solution of 9-bromo-N-[2,4-bis(methylthio)-6-methyl-3-pyridyl]nonanamide (90 mg, 0.22 mmol) and 7-methoxycarbonyl-2-mercaptobenzoxazole (45 mg, 0.22 mmol) were added 18-crown-6 (6 mg, 0.02 mmol) and potassium carbonate (36 mg, 0.26 mmol), and the mixture was stirred at 80° C. for 4 hours. The rdaction mixture was diluted with water, and then extracted with ethyl acetate. The organic layer was washed with water and then with a saturated aqueous solution of sodium chloride, and dried over magnesium sulfate. Subsequently, the solvent was distilled off, and the resulting crude product was recrystallized from a mixture of ethyl acetate and hexane to obtain 84 mg (yield 72%) of the desired compound as a colorless powdery crystal.

reactant | 9-bromo-N-[2,4-bis(methylthio)-6-methyl-3-pyridyl]nonanamide | 0.22 mmol, 90 mg | BrCCCCCCCCC(=O)NC=1C(=NC(=CC1SC)C)SC | C17H27BrN2OS2
reactant | 7-methoxycarbonyl-2-mercaptobenzoxazole | 0.22 mmol, 45 mg | COC(=O)C1=CC=CC=2N=C(OC21)S | C9H7NO3S
reactant | 18-crown-6 | 0.02 mmol, 6 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium carbonate | 0.26 mmol, 36 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 9-(7-methoxycarbonylbenzoxazol-2-ylthio)-N-[2,4-bis(methylthio)-6-methyl-3-pyridyl]nonanamide | 84 mg, yield 72% | COC(=O)C1=CC=CC=2N=C(OC21)SCCCCCCCCC(=O)NC=2C(=NC(=CC2SC)C)SC | C26H33N3O4S3
